data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_177978_1,[C:1]([C:5]([C:3](/[C:4]([N:6]([H:11])[H:12])=[C:8](/[C:2]([H:19])([H:20])[H:21])[H:15])[O:9][H:10])[N:7]([H:13])[H:14])([H:16])([H:17])[H:18]>>[C:1]([C@@:5]1([N:7]([H:13])[H:14])[C:3]([O:9][H:10])=[C:4]([N:6]([H:11])[H:12])[C@:8]1([C:2]([H:19])([H:20])[H:21])[H:15])([H:16])([H:17])[H:18],36.55312999995289
MR_571900_1,[C:1]([N:3]([N:2]([C:4](=[O:6])[H:9])[O:5][H:7])[H:8])([H:10])([H:11])[H:12]>>[C:1]([N:3]([C@@:4]1([H:9])[N:2]([O:5][H:7])[O:6]1)[H:8])([H:10])([H:11])[H:12],60.435779999971686
MR_262007_1,[C:1](/[C:6](=[C:5](\[C:3](=[C:2]([O:7][H:9])[O:8][H:10])[N:4]([H:11])[H:12])[H:13])[H:14])([H:15])([H:16])[H:17]>>[C:1]([C:6]1([H:14])[C:2]([O:7][H:9])([O:8][H:10])[C:3]([N:4]([H:11])[H:12])=[C:5]1[H:13])([H:15])([H:16])[H:17],44.78216499997174
MR_127281_0,[C:1](/[C:4](=[C:3]([C:5](/[C:2]([H:18])([H:19])[H:20])=[N:9]\[N:6]([H:11])[H:12])\[N:7]([H:13])[H:14])[O:8][H:10])([H:15])([H:16])[H:17]>>[C:1]([C@:4]1([O:8][H:10])[C:3]([N:7]([H:13])[H:14])=[C:5]([C:2]([H:18])([H:19])[H:20])[N:9]1[N:6]([H:11])[H:12])([H:15])([H:16])[H:17],37.4165699999844
MR_281627_2,[C:1]([C:4](/[C:5]([C:2]([H:15])([H:16])[H:17])=[C:3](\[N:6]([H:10])[H:11])[O:7][H:9])=[O:8])([H:12])([H:13])[H:14]>>[C:1]([C:4]1=[C:5]([C:2]([H:15])([H:16])[H:17])[C@:3]([N:6]([H:10])[H:11])([O:7][H:9])[O:8]1)([H:12])([H:13])[H:14],41.17906000000872
MR_9806_0,[N:1](/[C:2](=[C:5](/[N:4]([H:11])[H:12])[H:13])[O:6][H:7])([N:3]([H:9])[H:10])[H:8]>>[N:1]([C:2]([C:5]([N:4]([H:11])[H:12])([H:8])[H:13])[O:6][H:7])[N:3]([H:9])[H:10],52.15026999998841
MR_30616_0,[C:1]([N:2](/[C:3]([N:4]([H:9])[H:10])=[C:6](/[N:5]([H:11])[H:12])[H:13])[C:7](=[C:8]([H:18])[H:19])[H:14])([H:15])([H:16])[H:17]>>[C:1](/[N:2]=[C:3](/[N:4]([H:9])[H:10])[C:6]([N:5]([H:11])[H:12])([C:7](=[C:8]([H:18])[H:19])[H:14])[H:13])([H:15])([H:16])[H:17],73.06735500003967
MR_583000_1,[C:1]([N:3]([C:2]([H:14])([H:15])[H:16])[N:4]([N:5]([H:9])[H:10])[H:8])([C:6](=[O:7])[H:13])([H:11])[H:12]>>[C:1]([N:3]([C:2]([H:14])([H:15])[H:16])[C:6](=[O:7])[H:13])([N:4]([N:5]([H:9])[H:10])[H:8])([H:11])[H:12],49.13638750003585
MR_456950_0,[C:1]1([H:9])([H:10])[N:2](/[C:3]([N:4]([H:7])[H:8])=[N:6]/[H:11])[O:5]1>>[C:1]1([H:9])([H:10])[O:5][N:2]=[C:3]([N:4]([H:7])[H:8])[N:6]1[H:11],41.04477499999106
MR_63625_0,[C:1](\[N:2]([H:7])[H:8])([C:4](=[O:6])[H:11])=[C:5](\[N:3]([H:9])[H:10])[H:12]>>[C:1]1([N:2]([H:7])[H:8])=[C:4]([H:11])[O:6][C@:5]1([N:3]([H:9])[H:10])[H:12],46.016457499994345
MR_398628_2,[C:1](/[C:5](=[C:3](/[N:2]([O:7][H:9])[N:8]=[C:6]([H:13])[H:14])[N:4]([H:10])[H:11])[H:12])([H:15])([H:16])[H:17]>>[C:1]([C:5](/[C:3](=[N:2]\[O:7][H:9])[N:4]([H:10])[H:11])([N:8]=[C:6]([H:13])[H:14])[H:12])([H:15])([H:16])[H:17],70.55170750000627
MR_337322_2,[C:1]([O:9][N:4]([C:2]([H:15])([H:16])[H:17])[C:6]([N:5]([C:3]([H:18])([H:19])[H:20])[N:7]([H:10])[H:11])=[C:8]([H:21])[H:22])([H:12])([H:13])[H:14]>>[C:1]([O:9][C:6]([N:4]([C:2]([H:15])([H:16])[H:17])[N:5]([C:3]([H:18])([H:19])[H:20])[N:7]([H:10])[H:11])=[C:8]([H:21])[H:22])([H:12])([H:13])[H:14],64.84584999996613
MR_238083_0,[C:1]([N:8]1[C:5]([C:3]([H:16])([H:17])[H:18])([C:4]([C:2]([H:13])([H:14])[H:15])=[O:6])[N:7]1[H:9])([H:10])([H:11])[H:12]>>[C:1](/[N:8]=[N:7]/[C:5]([C:3]([H:16])([H:17])[H:18])=[C:4](/[C:2]([H:13])([H:14])[H:15])[O:6][H:9])([H:10])([H:11])[H:12],57.445742499994594
MR_472252_1,[C:1]1(=[O:5])[C:2]([C:3]([O:7][H:11])([O:8][H:9])[H:12])([O:6][H:10])[O:4]1>>[C:1]([C:2]1([O:6][H:10])[C:3]([O:7][H:11])([H:12])[O:8]1)(=[O:4])[O:5][H:9],6.598789999997194
MR_184340_1,[C:1]([N:3]([C:4]([C:5]([C:2]([H:13])([H:14])[H:15])=[C:7]([H:18])[H:19])=[C:6]([H:16])[H:17])[O:8][H:9])([H:10])([H:11])[H:12]>>[C:1]([N:3]([C:4](=[C:6]([H:16])[H:17])[O:8][H:9])[C:5]([C:2]([H:13])([H:14])[H:15])=[C:7]([H:18])[H:19])([H:10])([H:11])[H:12],49.778319999984575
MR_140983_0,[C:1](/[C:4](=[C:2](\[N:3]([H:7])[H:8])[O:5][H:6])[H:9])([H:10])([H:11])[H:12]>>[C:1](/[C:2]([N:3]([H:7])[H:8])=[C:4](/[O:5][H:6])[H:9])([H:10])([H:11])[H:12],71.73391749999986
MR_639262_1,[N:1]1([N:3]([H:8])[H:9])[C@@:2](/[N:5]=[N:6]\[H:10])([H:7])[C:4]1([H:11])[H:12]>>[N:1]([C:2](=[C:4]([H:11])[H:12])/[N:5]=[N:6]\[H:10])([N:3]([H:8])[H:9])[H:7],56.31373249999911
MR_500951_0,[C:1]1([C:6]([C:3]([H:12])([H:13])[H:14])=[C:7]([C:4]([H:15])([H:16])[H:20])[C:5]([H:17])([H:18])[H:19])([H:9])[C:2]([H:10])([H:11])[O:8]1>>[C@@:1]1([C:6]([C:3]([H:12])([H:13])[H:14])=[C:7]([C:4]([H:15])([H:16])[H:20])[C:5]([H:17])([H:18])[H:19])([H:9])[C:2]([H:10])([H:11])[O:8]1,53.282907500017984
MR_112630_1,[C:1]([C:4]([O:8][H:10])=[O:9])([N:6]([H:12])[H:13])([C:7](=[C:5]([C:2]([H:16])([H:17])[H:18])[C:3]([H:15])([H:19])[H:20])[H:14])[H:11]>>[C:1](\[N:6]([H:12])[H:13])(=[C:7](\[C:5]([C:2]([H:16])([H:17])[H:18])([C:3]([H:15])([H:19])[H:20])[C:4]([O:8][H:10])=[O:9])[H:14])[H:11],65.52605999999656
